US06919352B2
To a cold (0° C.) solution of 6-chloro-2-picoline (21.4 mL, 196.0 mmol) and ethyl 4-fluorobenzoate (57.5 mL, 391.2 mmol) in tetrahydrofuran (311 mL) was added lithium bis(trimethylsilyl)amide (391 mL, 1.0 M in tetrahydrofuran, 391.0 mmol) dropwise via a pressure equalizing funnel over 1 hour. Upon complete addition, the cold bath was removed and the resultant solution was heated to 45° C. for 15 hours. The mixture was cooled to room temperature and quenched by the addition of water. Ether was added and the organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics were dried over magnesium sulfate. Filtration and concentration gave a solid residue which was purified by recrystallization from ethyl acetate-hexanes to provide 2-(6-chloro-2-pyridinyl)-1-(4-fluorophenyl)ethanone (32.2 g, 66%) as a tinted off-white solid existing as a keto-enol tautomeric mixture. 1H NMR (CDCl3): for the keto tautomer δ 8.11 (m, 2 H), 7.66 (t, 1 H), 7.30-7.25 (m 2 H), 7.17 (t, 2 H), 4.48 (s 2 H), 19F NMR (CDCl3) δ −104.72 (keto), −111.64 (enol); MS m/z 250 (M+1).

reactant | 6-chloro-2-picoline | 196.0 mmol, 21.4 mL | ClC1=CC=CC(=N1)C | C6H6ClN
reactant | ethyl 4-fluorobenzoate | 391.2 mmol, 57.5 mL | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | lithium bis(trimethylsilyl)amide | 391.0 mmol, 1.0 M, 391 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | tetrahydrofuran | 311 mL | O1CCCC1 | C4H8O
product | 2-(6-chloro-2-pyridinyl)-1-(4-fluorophenyl)ethanone | 32.2 g, 66% | ClC1=CC=CC(=N1)CC(=O)C1=CC=C(C=C1)F | C13H9ClFNO
